US07323475B2
(R)-2-[(7-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]propionic acid
Analogously to Example A-56, 0.040 g of 7-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid were allowed to react with D-Alanine methyl ester hydrochloride. The intermediate ester product was hydrolyzed as in Example A-56 to give 0.042 g of a white solid: MS-(−)-ion, M−1=353.0 amu.

reactant | 7-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | 0.040 g | C(C)(C)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)O)O | C13H12ClNO4
reactant | D-Alanine methyl ester hydrochloride | Cl.COC([C@H](N)C)=O
product | (R)-2-[(7-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]propionic acid | 0.042 g | C(C)(C)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)N[C@@H](C(=O)O)C)O | C16H17ClN2O5
